US04873236
11-[[[2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-9-methyl-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 2 from 11-(chlorocarbonyl)-5,11-dihydro-9-methyl-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethanamine in a yield of 40% of theory. Colourless crystals, m.p. 183°-185° C. (acetonitrile).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-9-methyl-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=C(C=C3)C)=O)C=CC=N2 | C14H10ClN3O2
reactant | 2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethanamine | C(C)N(CC)CC1N(CCCC1)CCN | C12H27N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 11-[[[2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-9-methyl-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 40% | C(C)N(CC)CC1N(CCCC1)CCNC(=O)N1C2=C(NC(C3=C1C=C(C=C3)C)=O)C=CC=N2 | C26H36N6O2
